US07135502B1
Using an analogous procedure to that described for Example 27 [(5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl]methyl ditertbutyl phosphate was treated with 1M hydrogen chloride in 1,4-dioxane to give [(5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl]methyl dihydrogen phosphate.

reactant | [(5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl]methyl ditertbutyl phosphate | P(=O)(OCC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1)(OC(C)(C)C)OC(C)(C)C | C29H42NO8P
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | [(5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl]methyl dihydrogen phosphate | Yield: 95% | P(=O)(OCC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1)(O)O | C21H26NO8P
